US06432993B1
t-Butyl N-{5-[2-(morpholin-4-yl)phenoxy]-2-nitrophenyl}-N-methylcarbamate
By using 0.72 g of 2-(4-morpholino)phenol, 1.15 g of t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate, 0.17 g of sodium hydride (55% by weight) and 10 ml of anhydrous N,N-dimethylformamide, reaction and purification were carried out in a similar manner to that described in Reference Example 6, whereby 1.44 g of the title compound were obtained.

reactant | 2-(4-morpholino)phenol | 0.72 g | C1COCCN1C2=CC=CC=C2O | C10H13NO2
reactant | t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate | 1.15 g | ClC=1C=CC(=C(C1)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-] | C12H15ClN2O4
reactant | sodium hydride | 0.17 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | t-Butyl N-{5-[2-(morpholin-4-yl)phenoxy]-2-nitrophenyl}-N-methylcarbamate | 1.44 g | N1(CCOCC1)C1=C(OC=2C=CC(=C(C2)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-])C=CC=C1 | C22H27N3O6
